US07728012B2
26.1 1-[4-(Morpholin-4-ylmethyl)phenyl]ethanone
4.7 g of 1,4-dihydro-2,6-dimethyl-3,5-pyridinecarboxylate and 1.3 g of scandium triflate were added to 2.75 g of 4-acetylbenzaldehyde (18.56 mmol), 1.7 ml of morpholine and 3 g of 4 Å molecular sieves in 100 ml of tetrahydrofuran under argon, and the mixture was heated to reflux for 3 hours. The mixture was concentrated. The residue was mixed with ethyl acetate and washed with sat. NaHCO3 solution and sat. NaCl solution. Drying and evaporation of the mixture resulted in a crude product which was purified by chromatography on silica gel (eluent: cyclohexane/ethyl acetate 40-80%). 1.85 g of a yellowish oil were obtained.

reactant | 4-acetylbenzaldehyde | 18.56 mmol, 2.75 g | C(C)(=O)C1=CC=C(C=O)C=C1 | C9H8O2
reactant | morpholine | 1.7 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | scandium triflate | 1.3 g | [O-]S(=O)(=O)C(F)(F)F.[Sc+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | 1-[4-(Morpholin-4-ylmethyl)phenyl]ethanone | 1.85 g | N1(CCOCC1)CC1=CC=C(C=C1)C(C)=O | C13H17NO2
